US04956465
Ethyl 7-(cyano-ethoxycarbonyl-methyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-nitro-4-oxo-3-quinoline-carboxylate
3.0 g of ethyl 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-8-nitro-4-oxo-3-quinoline-carboxylate and 1.92 g of ethyl cyanoacetate are initially introduced into 30 ml of dioxane. 1.91 g of potassium tert-butoxide are added in portions at room temperature. The mixture is stirred overnight and then heated to 50° for a further 4 hours. After cooling to room temperature, the mixture is diluted using ice-water and rendered acidic using HCl. The mixture is extracted using methylene chloride, and the organic phase is dried and concentrated. The residue is recrystallized from isopropanol.

reactant | ethyl 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-8-nitro-4-oxo-3-quinoline-carboxylate | 3.0 g | ClC1=C(C=C2C(C(=CN(C2=C1[N+](=O)[O-])C1CC1)C(=O)OCC)=O)F | C15H12ClFN2O5
reactant | ethyl cyanoacetate | 1.92 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium tert-butoxide | 1.91 g | CC(C)([O-])C.[K+]
reactant | HCl | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | Ethyl 7-(cyano-ethoxycarbonyl-methyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-nitro-4-oxo-3-quinoline-carboxylate | C(#N)C(C1=C(C=C2C(C(=CN(C2=C1[N+](=O)[O-])C1CC1)C(=O)OCC)=O)F)C(=O)OCC | C20H18FN3O7
